US06596445B1
36.1 1,9-Bis-(4-methylsulfanyl-phenyl)-nonane-1,9-dione
Thioanisole (23.5 ml, 0.20 mol) is added to a suspension of AlCl3 (27.3 g, 0.205 mol) in 200 ml of CH2Cl2. Azelaoyl chloride (19.7 ml, 0.10 mol) is added dropwise slowly, while the reaction mixture is cooled in an ice bath and the reaction solution is stirred for 19 h at room temperature. Then, the reaction solution is poured into ice-water. The produced white precipitate is filtered off and the crude product is extracted from the filtrate with CH2Cl2, washed with brine, dried over MgSO4, and concentrated. The residue is purified by recrystallization from i-Pr2O—CHCl3. The product is obtained as a white solid. 1H NMR (CDCl3), δ[ppm]: δ1.35-1.43 (m, 6H), 1.72 (t, 4H), 2.52 (s, 6H), 2.91 (t, 4H), 7.26 (d, 4H), 7.87 (d, 4H)

reactant | Thioanisole | 0.20 mol, 23.5 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | AlCl3 | 0.205 mol, 27.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | Azelaoyl chloride | 0.10 mol, 19.7 ml | C(CCCCCCCC(=O)Cl)(=O)Cl | C9H14Cl2O2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 1,9-Bis-(4-methylsulfanyl-phenyl)-nonane-1,9-dione | CSC1=CC=C(C=C1)C(CCCCCCCC(=O)C1=CC=C(C=C1)SC)=O | C23H28O2S2
